US06492385B2
Step 52a: Preparation of Ethyl 2-(2-fluorophenyl)-1,3-thiazole-5-carboxylate.
Tetrakis(triphenylphosphine)palladium(0) (0.58 g, 0.5 mmol), and a degassed solution of 2.0M Na2CO3 (10 mL) are added to a degassed solution of 2-bromo-1,3-thiazole-5-carboxylic ethyl ester (1.18 g, 5.0 mmol) and 2-fluorophenylboronic acid (0.77 g, 5.5 mmol) in DME (10 mL). The resulting suspension is stirred under argon at 80° C. for 4 hours. The reaction mixture is cooled, diluted with EtOAc, and then washed with two portions of 1.0 M NaOH, then one portion of brine. The combined organic phases are concentrated in vacuo, and the resulting oil purified with flash chromatography. Yield 37%. HRMS (FAB) calculated for C12H10FNO2S+H 252.0495, found 252.0496.

reactant | Na2CO3 | 2.0M, 10 mL | C(=O)([O-])[O-].[Na+].[Na+]
reactant | 2-bromo-1,3-thiazole-5-carboxylic ethyl ester | 5.0 mmol, 1.18 g | C(C)OC(=O)C1=CN=C(S1)Br | C6H6BrNO2S
reactant | 2-fluorophenylboronic acid | 5.5 mmol, 0.77 g | FC1=C(C=CC=C1)B(O)O | C6H6BFO2
solvent | DME | 10 mL | COCCOC | C4H10O2
solvent | EtOAc | CCOC(=O)C | C4H8O2
catalyst | Tetrakis(triphenylphosphine)palladium(0) | 0.5 mmol, 0.58 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | Ethyl 2-(2-fluorophenyl)-1,3-thiazole-5-carboxylate | Yield 37% | FC1=C(C=CC=C1)C=1SC(=CN1)C(=O)OCC | C12H10FNO2S
